US05714514
Phosphorus pentachloride (83.3 g; 0.40 mol) is introduced into a solution of cyanoacetic acid (34.0 g; 0.40 mol) in 1,2 l of dichloromethane and the mixture is heated under reflux for 30 minutes. 4-Trifluoromethylaniline (41.0 g, 0.26 mol) is then introduced into said mixture within about 10 minutes and the reaction mixture is heated under reflux for 2 hours. After cooling to 20° C., the reaction mixture is treated with 500 ml of water and then stirred for 30 minutes. The aqueous phase is neutralized with sodium carbonate and the precipitate is filtered off with suction. The filter cake is washed with water and dried. 55.2 g of N-(4-trifluoromethylphenyl)cyanoacetamide are thus obtained in crystalline form. Melting point: 194°-195.5° C.

reactant | Phosphorus pentachloride | 0.40 mol, 83.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | cyanoacetic acid | 0.40 mol, 34.0 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-Trifluoromethylaniline | 0.26 mol, 41.0 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1,2 l | ClCCl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | N-(4-trifluoromethylphenyl)cyanoacetamide | 55.2 g | FC(C1=CC=C(C=C1)NC(CC#N)=O)(F)F | C10H7F3N2O
